US08981101B2
Preparation of 3-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-1 H-pyrrolo[2,3-c]pyridine (“A20”) [alternative preparation method]
A suspension of 112 mg (0.25 mmol) of 1-benzenesulfonyl-3-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-1H-pyrrolo[2,3-c]pyridine (“A14”) and 261 mg (0.74 mmol) of caesium carbonate in 1 ml of trifluoroethanol and 2 ml of THF is stirred at 65° C. for 18 hours. The reaction mixture is evaporated, and the residue is chromatographed on a silica-gel column with dichloromethane/methanol as eluent: 3-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-1H-pyrrolo[2,3-c]pyridine as colourless solid.

reactant | 1-benzenesulfonyl-3-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-1H-pyrrolo[2,3-c]pyridine | 0.25 mmol, 112 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=CN=CC2)C2=CNC1=NC=C(C=C12)C=1C=NN(C1)C | C24H18N6O2S
reactant | caesium carbonate | 0.74 mmol, 261 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | trifluoroethanol | 1 ml | C(C(F)(F)F)O | C2H3F3O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-1 H-pyrrolo[2,3-c]pyridine | CN1N=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=CNC1=CN=CC=C12 | C18H14N6
